US07479558B2
4-Chloro-2-methylsulfanyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde (200 mg, 0.63 mmol) in DMF (4.0 mL) and Ac2O (2.0 mL) was heated with “Smith Creator” (microwave, 160° C.) for 30 minutes. The mixture was concentrate under vacuum. Flash chromatography (EtOAc/Hexane, 1:5) then provided the title compound (50%): MS (ES) m/z 340 (M+H)+; 1H-NMR(CDCl3) δ 2.24 (s, 3H), 6.80 (d, J=9.8 Hz, 1H), 7.12 (m, 2H), 7.49 (m, 1H), 8.04 (d, J=9.8 Hz, 1H).

reactant | 4-Chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 0.63 mmol, 200 mg | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1F)F)SC | C12H8ClF2N3OS
reactant | Ac2O | 2.0 mL | CC(=O)OC(=O)C | C4H6O3
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-methylsulfanyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 50% | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
